### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/AssociatedPrime/Basic): associated primes and exact sequence

### PR DESCRIPTION
**Pull request by acmepjz**
Added properties of associated primes with respect to exact sequence.

Also added another equivalent characterization of being an associated prime.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 1]
```diff
@@ -92,9 +103,54 @@ theorem exists_le_isAssociatedPrime_of_isNoetherianRing [H : IsNoetherianRing R]
...
+@[stacks 02M3 "first part"]
 theorem associatedPrimes.subset_of_injective (hf : Function.Injective f) :
     associatedPrimes R M ⊆ associatedPrimes R M' := fun _I h => h.map_of_injective f hf
 
+/-- If `0 → M → M' → M''` is an exact sequence, then the set of associated primes of `M'` is
+contained in the union of those of `M` and `M''`. -/
+@[stacks 02M3 "second part"]
+theorem associatedPrimes.subset_union_of_exact
+    {M'' : Type*} [AddCommGroup M''] [Module R M'']
+    (g : M' →ₗ[R] M'') (hf : Function.Injective f) (hfg : Function.Exact f g) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:117]:
```suggestion
    {g : M' →ₗ[R] M''} (hf : Function.Injective f) (hfg : Function.Exact f g) :
```
Please check that `f` is also implicit.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 2]
```diff
@@ -92,9 +103,54 @@ theorem exists_le_isAssociatedPrime_of_isNoetherianRing [H : IsNoetherianRing R]
...
+    associatedPrimes R M' ⊆ associatedPrimes R M ∪ associatedPrimes R M'' := by
+  rintro p ⟨_, x, hx⟩
+  by_cases h : ∃ a ∈ p.primeCompl, ∃ y : M, f y = a • x
+  · obtain ⟨a, ha, y, h⟩ := h
+    refine Or.inl ⟨‹_›, y, le_antisymm (fun b hb ↦ ?_) (fun b hb ↦ ?_)⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:122]: Can you use `left` instead of `Or.inl`? It is more readable.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean]: Done.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:124]: Sure.
